US07109234B2
3-(R)-Amino-7-methyl-3,4-dihydro-2H-1,5-benzoxathiepine (Ib)
The title compound (Ib) is prepared according to a reaction sequence identical to that employed for the synthesis of 3-(R)-amino-3,4-dihydro-2H-1,5-benzoxathiepine (Ia-1) but using, as starting material, 2-hydroxy-5-methylthiophenol (IVb) instead of 2-hydroxythiophenol. The title compound (Ib) is obtained in the form of a yellow oil.

reactant | 3-(R)-amino-3,4-dihydro-2H-1,5-benzoxathiepine | N[C@@H]1COC2=C(SC1)C=CC=C2 | C9H11NOS
reactant | 2-hydroxy-5-methylthiophenol | OC1=C(C=C(C=C1)C)S | C7H8OS
product | 3-(R)-Amino-7-methyl-3,4-dihydro-2H-1,5-benzoxathiepine | N[C@@H]1COC2=C(SC1)C=C(C=C2)C | C10H13NOS
